US08349824B2
A mixture of 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (100 mg, 276 μmol), 3-fluoroazetidine hydrochloride (30.8 mg, 276 mmol), diisopropylethylamine (241 μl, 1.38 mmol) and propylphosphonic anhydride (50% in ethyl acetate, 407 μl, 690 μmol) in tetrahydrofurane (7 ml) is stirred for 3 hours at 70° C. under nitrogen atmosphere in a closed vessel and then over the weekend at room temperature. The solvent is evaporated and to the residue is added sat. aqueous sodium hydrogencarbonate solution. The mixture is stirred for 20 minutes while a white solid precipitates. The solid is collected by filtration, washed with diethylether and dried affording 4-(3-fluoroazetidine-1-carbonyl)-1-methyl-N-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-5-carboxamide (111 mg, 93.3%) as an insoluble white solid. mp.: 259-262° C. MS: m/z=420.2 (M+H+).

reactant | 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 276 μmol, 100 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)O | C18H14N6O3
reactant | 3-fluoroazetidine hydrochloride | 276 mmol, 30.8 mg | Cl.FC1CNC1
reactant | diisopropylethylamine | 1.38 mmol, 241 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | propylphosphonic anhydride | 690 μmol, 407 μl | CCCP(=O)=O | C3H7O2P
solvent | tetrahydrofurane | 7 ml | O1CCCC1 | C4H8O
product | 4-(3-fluoroazetidine-1-carbonyl)-1-methyl-N-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-5-carboxamide | 111 mg, 93.3% | FC1CN(C1)C(=O)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)C | C21H18FN7O2
